US04009208
111. N,N'-(1-Methylheptamethylene)bis(4-trifluoromethoxybenzamide)
m.p. 137°-138° C., 15.1 g., was prepared as in Example 20 using 18.7 g. of 4-trifluoromethoxybenzoyl fluoride in 50 ml. of ehtylene dichloride, 6.0 g. of 1,7-octanediamine in 100 ml. of ethylene dichloride, 13.8 g. of anhydrous potassium carbonate, and recrystallization from chloroform.

reactant | 4-trifluoromethoxybenzoyl fluoride | FC(OC1=CC=C(C(=O)F)C=C1)(F)F | C8H4F4O2
reactant | 1,7-octanediamine | C(CCCCCC(C)N)N | C8H20N2
solvent | ethylene dichloride | C(CCl)Cl | C2H4Cl2
product | N,N'-(1-Methylheptamethylene)bis(4-trifluoromethoxybenzamide) | CC(CCCCCCNC(C1=CC=C(C=C1)OC(F)(F)F)=O)NC(C1=CC=C(C=C1)OC(F)(F)F)=O | C24H26F6N2O4
